US08071581B2
Step 2: Preparation of 6-(6-cyclopropyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline
A mixture of 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline (240 mg), iron(III) acetylacetonate (12 mg) in tetrahydrofuran (5 mL) was degassed by bubbling nitrogen through for 10 minutes. The cyclopropyl magnesium bromide in tetrahydrofuran solution prepared in step 1 was then added to the reaction mixture and stirred at 50° C. for 18 hours. The mixture was allowed to cool to rt then acidified to pH 1 via the addition of 1N hydrochloric acid (20 mL). The tetrahydrofuran was removed in vacuo and the aqueous neutralized via the addition of aqueous NaHCO3 and then extracted with ethyl acetate (×3), dried (Na2SO4) and concentrated to dryness. The residue was taken up in piperidine (1 mL) and heated in a microwave at 12° C. for 25 min to consume the remaining 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline. The title compound was then purified via preparatory HPLC to return the title compound (4 mg, 10%). Analytical data presented in Table 1.

reactant | 6-(6-chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | 240 mg | ClC=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C15H10ClN5
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | iron(III) acetylacetonate | 12 mg | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Fe+3]
product | 6-(6-cyclopropyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-quinoline | C1(CC1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C18H15N5
